US09062032B2
To a mixture of 8.99 g of tert-butyl 2-({3-[(pentan-3-ylamino)methyl]benzoyl}amino)-4,5,6,7-tetrahydro-1-benzothiophene-3-carboxylate and 100 mL of methylene chloride was added 30 mL of TFA, followed by stirring for 15 hours at room temperature. The reaction mixture was concentrated under reduced pressure, and azeotropy was performed using toluene. 4.3 mL of thionyl chloride and 50 mL of toluene were added to the residue, and 0.10 mL of DMF was added dropwise thereto, followed by stirring for 1 hour at 60° C. The reaction mixture was concentrated under reduced pressure, a saturated aqueous sodium hydrogen carbonate solution was added thereto, followed by extraction with ethyl acetate. The organic layer was washed with saturated brined and dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:2), thereby obtaining 7.05 g of 2-{3-[(pentan-3-ylamino)methyl]phenyl}-5,6,7,8-tetrahydro-4H-[1]benzothieno[2,3-d][1,3]oxazin-4-one.

reactant | tert-butyl 2-({3-[(pentan-3-ylamino)methyl]benzoyl}amino)-4,5,6,7-tetrahydro-1-benzothiophene-3-carboxylate | 8.99 g | CCC(CC)NCC=1C=C(C(=O)NC=2SC3=C(C2C(=O)OC(C)(C)C)CCCC3)C=CC1 | C26H36N2O3S
reactant | TFA | 30 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-{3-[(pentan-3-ylamino)methyl]phenyl}-5,6,7,8-tetrahydro-4H-[1]benzothieno[2,3-d][1,3]oxazin-4-one | 7.05 g | CCC(CC)NCC=1C=C(C=CC1)C=1OC(C2=C(N1)SC1=C2CCCC1)=O | C22H26N2O2S
